US04122263
2-(2'-benzylthio-5'-chlorophenyl)-imidazolidine hydrochloride
32 parts of 4-chlorobenzothietane-2spiro-2'-imidazolidine is reacted with 19 parts of benzyl chloride in 300 parts of methanol as described in Example 11. The yield is 43 parts (84% of theory) and the melting point is 260° C. with decomposition.

reactant | 4-chlorobenzothietane-2spiro-2'-imidazolidine | ClC=1C=CC2=C(C1)C1(NCCN1)S2 | C9H9ClN2S
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | CO | CH4O
product | 2-(2'-benzylthio-5'-chlorophenyl)-imidazolidine hydrochloride | Cl.C(C1=CC=CC=C1)SC1=C(C=C(C=C1)Cl)C1NCCN1 | InChI=1S/C16H17ClN2S.ClH/c17-13-6-7-15(14(10-13)16-18-8-9-19-16)20-11-12-4-2-1-3-5-12;/h1-7,10,16,18-19H,8-9,11H2;1H
